US07449477B2
Add a solution of 0.58 g (8.45 mmol) of sodium nitrite in 3 mL of water to a mixture of the aniline (1.66 g, 8.45 mmol), 19 mL of water and 5 mL of concentrated sulfuric acid cooled at 5° C. in an ice bath, while maintaining the temperature below 10° C. Stir the mixture for 30 min and pour the solution into a solution of 1.75 g (10.56 mmol) of potassium iodide in 10 mL of water. Heat the aqueous solution at 60° C. for 3 h. Cool the black solution and add chloroform. Separate the organic layer and wash with 10% sodium hydroxide, 1M sodium thiosulfate, 10% hydrochloric acid, water, saturated sodium bicarbonate and brine. Dry the organic layer over MgSO4, filter, concentrate the solvent under reduced pressure and chromatograph the residue using Hex/EtOAc 98:2 to provide 1-(5-chloro-2-iodo-phenyl)-pyrrolidine (60% yield). From this material, prepare the title compound using a procedure similar to Preparation 1.

reactant | sodium nitrite | 8.45 mmol, 0.58 g | N(=O)[O-].[Na+]
reactant | aniline | 8.45 mmol, 1.66 g | NC1=CC=CC=C1 | C6H7N
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | potassium iodide | 10.56 mmol, 1.75 g | [I-].[K+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 3 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | water | 19 mL | O | H2O
product | 1-(5-chloro-2-iodo-phenyl)-pyrrolidine | 60% yield | ClC=1C=CC(=C(C1)N1CCCC1)I | C10H11ClIN
